US05166204
To 50 ml of acetic acid were added 2.4 g of diethyl 4-oxocyclohexane-1,2-dicarboxylate, 3.0 g of zinc chloride and 1.9 g of 4-nitrophenylhydrazine hydrochloride. The mixture was refluxed for 4 hours. Then, acetic acid was removed by distillation under reduced pressure. To the residue were added 100 ml of ethyl acetate and 50 ml of water. The organic layer was separated, washed with diluted hydrochloric acid, an aqueous saturated sodium chloride solution, an aqueous saturated sodium hydrogencarbonate solution and an aqueous saturated sodium chloride solution in this order, and dried over anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure. The residue was recrystallized from iso-propyl alcohol to obtain 750 mg (yield: 21%) of diethyl-6-nitro-1,2,3,4-tetrahydrocarbazole-2,3-dicarboxylate as colorless crystals.

reactant | diethyl 4-oxocyclohexane-1,2-dicarboxylate | 2.4 g | O=C1CC(C(CC1)C(=O)OCC)C(=O)OCC | C12H18O5
reactant | 4-nitrophenylhydrazine hydrochloride | 1.9 g | Cl.[N+](=O)([O-])C1=CC=C(C=C1)NN
catalyst | zinc chloride | 3.0 g | [Cl-].[Zn+2].[Cl-]
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | diethyl-6-nitro-1,2,3,4-tetrahydrocarbazole-2,3-dicarboxylate | 750 mg, yield: 21% | C(C)OC(=O)C1CC=2NC3=CC=C(C=C3C2CC1C(=O)OCC)[N+](=O)[O-] | C18H20N2O6
